US05635510
55.1 Synthesis of 3-cyano-3-(2-fluoro-phenyl)-pentanedioic acid diethyl ester
Prepare by the method of example 1.1.2 using 2-fluorophenylacetonitrile (0.161 mol) and ethyl bromoacetate (0.325 mol). Chromatograph on silica gel to give the title compound.

reactant | 2-fluorophenylacetonitrile | 0.161 mol | FC1=C(C=CC=C1)CC#N | C8H6FN
reactant | ethyl bromoacetate | 0.325 mol | BrCC(=O)OCC | C4H7BrO2
product | 3-cyano-3-(2-fluoro-phenyl)-pentanedioic acid diethyl ester | C(C)OC(CC(CC(=O)OCC)(C1=C(C=CC=C1)F)C#N)=O | C16H18FNO4
